US04820834
N-(3-Methoxyphenyl)-N'-(2,3-dihydro-1,8-dimethyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-urea
Equimolar amounts of 3-(R,S)-amino-1,3-dihydro-1,8-dimethyl-5-phenyl-2H-1,4-benzodiazepin-2-one, 3-methoxyphenylisocyanate, and triethylamine were mixed in THF at 0° C. and stirred 20 minutes. Removal of THF in vacuo and crystallization from MeOH gave the title compound: m.p. 184°-188° C.

reactant | 3-(R,S)-amino-1,3-dihydro-1,8-dimethyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC(=C2)C)C)=O | C17H17N3O
reactant | 3-methoxyphenylisocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | N-(3-Methoxyphenyl)-N'-(2,3-dihydro-1,8-dimethyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-urea | COC=1C=C(C=CC1)NC(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC(=C2)C)C)=O | C25H24N4O3
